US07282588B2
4-bromo-6-chloro-1H-pyrrolo[2,3-b]pyridine
To a suspension of the 4-bromo-1H-pyrrolo[2,3-b]pyridine 7-oxide (27 mmol) in N,N-dimethylformamide (57 mL) at 50° C. was added methanesulfonyl chloride (67.5 mmol) under nitrogen. Upon completion of the addition, the reaction was stirred at 75° C. for 1 hour. The reaction was cooled to room temperature and quenched with water (60 mL). Then, it was cooled to 5° C. and 6N sodium hydroxide solution was added to raise the pH to 7. The ice bath was removed and the resulting slurry was stirred at room temperature for 3 h. The precipitate was filtered, washed with water (50 mL), and dried under high vacuum to give the title product as a white solid (89%). ESMS [M+H]+: 231.0

reactant | 4-bromo-1H-pyrrolo[2,3-b]pyridine 7-oxide | 27 mmol | BrC1=C2C(=[N+](C=C1)[O-])NC=C2 | C7H5BrN2O
reactant | methanesulfonyl chloride | 67.5 mmol | CS(=O)(=O)Cl | CH3ClO2S
solvent | N,N-dimethylformamide | 57 mL | CN(C=O)C | C3H7NO
product | 4-bromo-6-chloro-1H-pyrrolo[2,3-b]pyridine | 89% | BrC1=C2C(=NC(=C1)Cl)NC=C2 | C7H4BrClN2
